US06635657B1
A. 4-(tert-Butoxycarbonylamino)cyclohexanecarboxylic Acid
To a suspension of of 4-aminocyclohexanecarboxylic acid (9.3 g, 65 mmol), potassium carbonate (9.88 g, 71.5 mmol), di-t-butyl dicarbonate (15.6 g, 71.5 mmol) and acetone (500 ml) was added water (100 mL). The reaction was stirred for 16 hours and the organic solvent was removed in vacuo. A solution of 3:1 hexane:ether (8 mL) was added to the reaction mixture and then the mixture was acidified with saturated citric acid. The solid was filtered with water and 3:1 hexane:ether washes. The product was air dried and vacuum dried to give the title compound as a white solid (14.7 g, 93%).

reactant | 4-aminocyclohexanecarboxylic acid | 65 mmol, 9.3 g | NC1CCC(CC1)C(=O)O | C7H13NO2
reactant | potassium carbonate | 71.5 mmol, 9.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl dicarbonate | 71.5 mmol, 15.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetone | 500 ml | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
product | 4-(tert-Butoxycarbonylamino)cyclohexanecarboxylic Acid | 14.7 g, 93% | C(C)(C)(C)OC(=O)NC1CCC(CC1)C(=O)O | C12H21NO4
